US07713994B2
To a solution of 3-fluoro-4-methoxy-benzaldehyde O-methyl-oxime (0.60 g, 3.3 mmol) in ethanol (25 mL) is added concentrated ethanolic hydrogen chloride (2 mL) and palladium on carbon (10%, 250 mg). The suspension is hydrogenated at atmospheric pressure for 18 hours, then filtered through diatomaceous earth and finally concentrated to give 3-fluoro-4-methoxy-benzylamine hydrochloride as a white solid.

reactant | 3-fluoro-4-methoxy-benzaldehyde O-methyl-oxime | 3.3 mmol, 0.60 g | CON=CC1=CC(=C(C=C1)OC)F | C9H10FNO2
reactant | hydrogen chloride | 2 mL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 3-fluoro-4-methoxy-benzylamine hydrochloride | Cl.FC=1C=C(CN)C=CC1OC | InChI=1S/C8H10FNO.ClH/c1-11-8-3-2-6(5-10)4-7(8)9;/h2-4H,5,10H2,1H3;1H
